US07576215B2
[4-[3-(1H-INDOL-5-YLOXY) PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone and 5-Indolylboronic acid, following the procedure of Example 519: MS m/z 509; MS m/z 507.

reactant | [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 5-Indolylboronic acid | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
product | [4-[3-(1H-INDOL-5-YLOXY) PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | N1C=CC2=CC(=CC=C12)OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C31H19F3N2O2
